Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Aspirin / Vancomycin
 
Attending: ___.
 
Chief Complaint:
Elevated creatinine
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram

 
History of Present Illness:
Ms. ___ is a ___ year old female with a h/o bicuspid AVR with 
bioprosthetic valve in ___ and recent admission ___ 
endocarditis with S. viridans and Coagulase Negative Staph 
(CoNS) in blood cx. The patient was D/Ced home on PCN and 
gentamycin home IV infusions. She had been doing well and 
asymptomatic. Routine ___ labs drawn showed elevated BUN and Cr, 
and patient was instructed to return to ___ ED. The patient 
has been eating and drinking normally, urine may have looked 
slightly dark, but amount was not decreased. She denies 
dizziness/lightheadedness, N/V, diarrhea. 
.
In ED, received 1 L NS. Vitals T 97.4, HR 70, BP 138/72, RR 16, 
O2sat 97/RA.
 
Past Medical History:
s/p AVR for bicuspid aortic valve ___  
Hypertension  
Hypercholesterolemia  
s/p partial hysterectomy  
Anxiety/Depression  
Arthritis spine/hip  
Osteoporosis  
Hx of GI bleed 
ALLERGIES:  
Codeine->hives  
"ASA"->upset stomach  
Penicillin causes itch.  

 
Social History:
___
Family History:
Family history non-contributory.  
 
Physical Exam:
T 97.7  BP 133/81  HR 80  RR 18  O2sat 100/RA
General - Resting comfortably in bed, no acute distress
HEENT - Sclera anicteric, MMM, oropharynx clear
Neck - Supple, JVP not elevated, no LAD
Pulm - CTA bilaterally; no wheezes, rales, or rhonchi
CV - RRR, normal S1/S2; ___ systolic murmur at LUSB, loud S2.
Abdomen - Normoactive bowel sounds; soft, non-tender, 
non-distended
Ext - Warm, well perfused, radial and DP pulses 2+; no clubbing, 
cyanosis or edema
Neuro - AOx3
 
Pertinent Results:
Admission Labs:
___ 08:30PM  
141 | 105 | 47
4.4 | 24  | 2.2 
.
Ca 9.5 Phos 4.7* Mag 2.0
.
GENTA-1.4*
.
    10.5
8.8 >---< 218 
     32.5
Neuts Bands Lymphs Monos Eos Baso 
61.6   26.3 7.6 4.1* 0.4
.
ESR 3
CRP 2.0
.
Discharge Labs:
___: WBC-9.2 RBC-3.45* Hgb-10.7* Hct-32.0* MCV-93 MCH-31.0 
MCHC-33.5 RDW-13.1 Plt ___
___: Glucose-123* UreaN-69* Creat-3.4* Na-141 K-4.0 Cl-108 
___: Calcium-9.3 Phos-5.7* Mg-1.9
.
UA neg x 2
U cx neg
.
Blood cx NGTD
.
IMAGING:
RENAL U/S:
The right kidney measures 11.2 cm. The left kidney measures 11.2
cm. There is no evidence of hydronephrosis. There are no solid 
masses or
renal stones. The bladder appears within normal limits.
.
TEE:
No atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. There are 
simple atheroma in the descending thoracic aorta. A 
bioprosthetic aortic valve prosthesis is present. The aortic 
valve prosthesis leaflets appear to move normally. No masses or 
vegetations are seen on the aortic valve. No aortic valve 
abscess is seen. Moderate to severe (3+) aortic regurgitation is 
seen. The aortic regurgitation jet is eccentric. No paravalvar 
leak seen. The mitral valve leaflets are mildly thickened. No 
mass or vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. No masses or vegetations are seen on the tricuspid 
valve. There is no pericardial effusion.
.
TEE (___)
No atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. There are 
simple atheroma in the descending thoracic aorta. A 
bioprosthetic aortic valve prosthesis is present. The aortic 
valve prosthesis leaflets appear to move normally. No masses or 
vegetations are seen on the aortic valve. No aortic valve 
abscess is seen. Moderate to severe (3+) aortic regurgitation is 
seen. The aortic regurgitation jet is eccentric. No paravalvar 
leak seen. The mitral valve leaflets are mildly thickened. No 
mass or vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. No masses or vegetations are seen on the tricuspid 
valve. There is no pericardial effusion. IMPRESSION: Moderate to 
severe bioprosthetic aortic regurgitation. No valvular 
vegetations or paravalvar abcess. No paravalvar leak seen. 
Compared with the prior study (images reviewed) of ___, no 
change. IMPRESSION: Moderate to severe bioprosthetic aortic 
regurgitation. No valvular vegetations or paravalvar abcess. No 
paravalvar leak seen. Compared with the prior study (images 
reviewed) of ___, no change.

 
Brief Hospital Course:
___ yo F with AVR and endocarditis with blood cx growing coag neg 
Staph and Strep viridans, on IV PCN and gent, now presents with 
___.
.
#. ___: The patient presented with acute elevation in creatinine 
after about 3 weeks IV gentamycin. The most likely cause was ATN 
from gentamycin. Alternative causes included AIN (urine eos 
neg), pre-renal, and obstructive. Urine electrolytes were not 
consistent with pre-renal, and Cr did not improve with 2 L IVF. 
UA and culture was negative. Urine sediment was unremarkable. In 
setting of endocarditis, immune complex deposition was 
considered, but serum complement levels were wnl.
Gentamycin level at admission was subtherapeutic, and further 
doses were held. All nephrotoxic meds were held, including 
patient's home HCTZ. The patient continued to make adequate 
urine, but creatinine continued to rise. Renal consult was 
called. Renal U/S ruled out hydronephrosis. On day five of 
admission Crt peaked at 3.5 before the trending down. Pt was 
discharged with close follow up with her PCP. Nephrology did not 
feel that she needed to be followed by nephrology if her Crt 
continued to trend down. Nephrology believes her renal function 
should return to baseline. 
.
#. AV endocarditis: Patient had TTE showing perivalvular leak 
and positive blood cx in ___ for 2 strains of Strep viridans, 1 
intermediately resistant to PCN, as well as Coag Neg Staph 
(question if contaminant). Patient was D/Ced with 4 week course 
IV PCN/Gent at home. TEE at that time showed aortic annular 
abscess and increased AR. On admission, gentamycin was held. ID 
was consulted and the patient was started on vancomycin, dosed 
by levels. CRP and ESR were wnl and will be monitored. TEE was 
repeated on ___ and showed no significant change from prior. 
The patient is being followed by CT surgery for replacement AVR. 
The patient remained afebrile and all blood cx negative during 
course. No chest pain, SOB or hemodynamic changes were seen to 
suggest worsening AR. Repeat TEE did not show aortic annular 
abscess and no aortic valve vegitations, with stable aortic 
regurgitation. Pt will be followed closely by cardiology and CT 
surgery. 
.
#. cerebral aneurysm: found incidentally on last admission, 
neurosurgery is following as outpatient, and repeat MRI is 
scheduled in ___.
.
#. muscle pain: patient takes Chlorzoxazone at home, was treated 
with Flexeril in hospital.
.
#. HTN: home dose HCTZ was held for ___. The patient remained 
normotensive and no antihypertensives were required during 
course. The patient should monitor her blood pressure and PCP 
can consider ___ if elevated as outpatient.
.
#. anxiety/depression: cont home meds.
.
 
Medications on Admission:
MEDICATIONS:
1. Sertraline 150 mg daily  
2. Benicar 20 mg daily  
3. Chlorzoxazone 500 mg TID prn muscle pain  
4. Evista 60 mg daily  
5. Chantix Oral  
6. Rosuvastatin 10 mg daily  
7. Hydrochlorothiazide 25 mg po daily  
8. Tramadol 50 mg po bid prn pain  
9. Lamotrigine 50 mg daily  
10. Lorazepam 0.5 mg po qhs prn  
11. Penicillin G Potassium 4 million units IV q4h x 4 weeks  
12. Gentamicin Sulfate 60 mg IV q8h x 4 weeks 
 
Discharge Medications:
1. Sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1) 
Gram Intravenous every other day for 1 weeks: Take through ___. 
First dose on ___. Infectious disease to advise on remaining 
dosages per blood work.
Disp:*4 1* Refills:*0*
3. Benicar 20 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Chlorzoxazone 500 mg Tablet Sig: One (1) Tablet PO TID:PRN as 
needed for Muscle pain.  
5. Evista 60 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Chantix
Please contact your primary care physician about restarting this 
medication. 
7. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
8. Lamotrigine 25 mg Tablet Sig: One (1) Tablet PO twice a day.  

9. Outpatient Lab Work
Please Draw morning of ___: Creatinine, BUN, Vancomycin Trough. 
Please fax all lab results to Infectious disease
R.Ns. at ___ phone ___.

10. Diphenhydramine
12.5 mg IV. Please give 15 minutes prior to starting IV 
Vancomycin.  
11. Crestor 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
AVR endocarditis
acute renal failure secondary to gentamicin

Secondary:
Hypertension

 
Discharge Condition:
good condition, vital signs stable, afebrile, renal function 
stable

 
Discharge Instructions:
You were admitted because routine lab tests showed your kidney 
function was not normal. This probably occurred because the 
gentamycin you were taking for endocarditis can be toxic to the 
kidneys. You were switched to vancomycin. Repeat imaging of your 
heart showed no abscess involving the aortic valve and no 
bacterial growth on the valve. You continued to have moderate 
aortic regurgitation which had not worsened from your previous 
imaging study. During your hospitalization the decline your 
kidney function stopped and the kidney doctors thought ___ could 
be monitored outside the hospital. 

The following changes were made to your home medications:
(1) Stop Hydrochlorathiazide until your kidney function 
improves.  Your doctor ___ tell you when to restart this.
(2) Stop NSAIDS like Ibuprofen and Tramadol until your kidney 
function improves.  Your doctor ___ tell you when to restart 
this.
.
Please seek medical attention if you experience fevers, chest 
pain, shortness of breath, or any other new symptoms.
 
Followup Instructions:
___